US03941807
This reaction sequence is further illustrated below under the preferred anhydrous conditions using as specific reactants, indole and phthalaldehydic acid to produce 3,3-di-(indol-3-yl) phthalide. ##SPC6##

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | phthalaldehydic acid | C(C=1C(C=O)=CC=CC1)(=O)O | C8H6O3
product | 3,3-di-(indol-3-yl) phthalide | N1C=C(C2=CC=CC=C12)C1(OC(=O)C2=CC=CC=C12)C1=CNC2=CC=CC=C12 | C24H16N2O2
